US08022221B2
Synthesis of 4-(2-(4(4-(4-methylthiazol-2-yl)phthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylphosphoramidic acid dihydroiodide
To a slightly cloudy mixture of dibenzyl 4-(2-(4-(4-(4-methylthiazol-2-yl)phthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylphosphoramidate (0.086 g, 0.11 mmol) in 3 mL 5:1 ACN/DCM was added iodotrimethylsilane (0.16 ml, 1.1 mmol) dropwise via syringe at ambient temperature under nitrogen. After 5 min, 0.6 mL MeOH was added and the stir bar was removed. The reaction was concentrated in vacuo and suspended in DCM and filtered. The resulting orange solid was collected and dried in vacuo to provide

reactant | dibenzyl 4-(2-(4-(4-(4-methylthiazol-2-yl)phthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylphosphoramidate | 0.11 mmol, 0.086 g | CC=1N=C(SC1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NP(OCC2=CC=CC=C2)(OCC2=CC=CC=C2)=O)C=C1 | C41H33N8O4PS
reactant | ACN DCM | C(C)#N.C(Cl)Cl
reactant | iodotrimethylsilane | 1.1 mmol, 0.16 ml | I[Si](C)(C)C | C3H9ISi
solvent | MeOH | 0.6 mL | CO | CH4O
product | 4-(2-(4(4-(4-methylthiazol-2-yl)phthalazin-1-ylamino)phenoxy)pyridin-3-yl)pyrimidin-2-ylphosphoramidic acid dihydroiodide | I.I.CC=1N=C(SC1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NP(O)(O)=O)C=C1 | InChI=1S/C27H21N8O4PS.2HI/c1-16-15-41-26(30-16)23-19-5-2-3-6-20(19)24(34-33-23)31-17-8-10-18(11-9-17)39-25-21(7-4-13-28-25)22-12-14-29-27(32-22)35-40(36,37)38;;/h2-15H,1H3,(H,31,34)(H3,29,32,35,36,37,38);2*1H
